US05167949
4-Amino-2-ethoxymethyl-6-methylpteridine
A suspension of 15.1 g (0.113 mole) of 3-amino-6-methyl-2-pyrazinecarbonitrile [prepared according to E. C. Taylor et al., J. Am. Chem. Soc. 1973, 95, 6413] in the above ethanolic solution of 2-ethoxyacetamidine is refluxed for 2 hours. After cooling, the solution obtained is concentrated to dryness under reduced pressure. The residue is purified by washing with acetone and recrystallization from a mixture of acetone and isopropyl ether. Yld: 8.4 g (34%), m.p. 166°-168° C.

reactant | 3-amino-6-methyl-2-pyrazinecarbonitrile | 0.113 mole, 15.1 g | NC=1C(=NC(=CN1)C)C#N | C6H6N4
reactant | 2-ethoxyacetamidine | C(C)OCC(=N)N | C4H10N2O
product | 4-Amino-2-ethoxymethyl-6-methylpteridine | NC1=NC(=NC2=NC=C(N=C12)C)COCC | C10H13N5O
